US07642264B2
4-(4-Chloro-phenyl)-2-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from commercially available N-hydroxy-4-pyridinecarboxamidine [CAS-No. 1594-57-6] (0.103 g, 0.75 mmol) and 4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine-2-carboxylic acid (example D.1) (0.15 g, 0.5 mmol) according to the general procedure V. Obtained as a light yellow solid (0.088 g, 44%). MS (ISP) 404.1 [(M+H)+]; mp 187.5° C.

reactant | N-hydroxy-4-pyridinecarboxamidine | 0.75 mmol, 0.103 g | ONC(=N)C1=CC=NC=C1 | C6H7N3O
reactant | 4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine-2-carboxylic acid | 0.5 mmol, 0.15 g | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C(=O)O | C12H6ClF3N2O2
product | 4-(4-Chloro-phenyl)-2-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)-6-trifluoromethyl-pyrimidine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=NC(=NO1)C1=CC=NC=C1 | C18H9ClF3N5O
